US07700786B2
Trichloromethyl chloroformate (0.49 g, 2.5 mmol) was added to a solution of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole (0.69 g, 2.5 mmol) in chloroform (10 ml) at 0° C., and while the mixture was allowed to have room temperature gradually, it was further stirred at room temperature for 3 hours. Sec-butylamine (0.22 g, 3.0 mmol) and potassium carbonate (0.42 g, 3.0 mmol) were added to the reaction mixture, and the mixture was stirred at 50° C. for 8 hours. After completion of the reaction, the reaction mixture was poured into ice water and extracted with chloroform (20 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/7), to give a colorless viscous substance of N-s-butyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (0.24 g, yield: 25.5%). 1H-NMR (CDCl3, TMS, ppm): δ 0.96 (t, J=7.5 Hz, 3H), 1.22 (d, J=6.6 Hz, 3H), 1.45-1.65 (m, 2H), 2.65 (s, 3H), 3.75-4.00 (m, 1H), 6.04 (s, 1H), 6.75-7.05 (m, 1H), 8.02 (d, J=1.8 Hz, 1H), 8.30-8.40 (m, 1H).

reactant | Trichloromethyl chloroformate | 2.5 mmol, 0.49 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole | 2.5 mmol, 0.69 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)C | C10H7ClF3N3O
reactant | Sec-butylamine | 3.0 mmol, 0.22 g | C(C)(CC)N | C4H11N
reactant | potassium carbonate | 3.0 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-s-butyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 0.24 g, yield: 25.5% | C(C)(CC)NC(=O)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F | C15H16ClF3N4O2
